Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
CC:  fever and respiratory distress
REASON FOR MICU: hypoxic respiratory failure 
 
Major Surgical or Invasive Procedure:
Endotracheal Intubation
Central Line Placement
 
History of Present Illness:
  This is a ___ F transfer from ___, recent diagnosis of 
bilateral cryptogenic pneumonia, PMR, Afib, NSTEMI last week, 
cath with 3VD,  sCHF (EF 45%), who initially presented with 
fever and respiratory  distress to BI-N. 

On ___, patient presented to her PCP appearing ill with an 
increased O2 requirement up to 4L NC (baseline 1.5L NC) at rest 
___ wheelchair. Exam was notable for diffuse crackles. Given 
worsened hypoxemia, pulmonary fellow and PCP agreed to place 
patients on prednisone 20mg daily (low dose given high risk for 
sCHF exacerbation for recent diagnosis of organizing pneumonia 
with PCP prophylaxis with plans for close f/u. Patient 
reportedly had fever 101.8 with no associated cough. Review of 
systems was otherwise negative for any chest pain, shortness of 
breath, nausea, vomiting, abdominal pain or dysuria per family 
members. 

The next day, she subsequently presented to BI-N with worsening 
respiratory distress that evening. Initial O2 saturations were 
___ the ___, improved with NRB 100%. Patient was unable to 
tolerate BiPaP. Her initially SBPs were ___ but improved 
with IVF (total 4L IVF) and started levophed (not recorded ___ 
notes). She was also febrile to 101. Labs were notable for BNP 
2900 with lactate 3.5. ED stay was complicated by afib with rvr 
to 160s which improved to 120s with fluid and adminsitration of 
tylenol. Patient was given 10mg po Vitamin K and 5mg IV Vit K 
for INR 7. She was also given vanc/zosyn for presumed hcap. 
Patient was subsequently noted to become hypoxic to 90 with rr50 
- exam findings were concerning for pulmonary edema for which 
patient was intubated. She did sustain a small inner lip 
laceration during intubation. She was then transferred to ___ 
with vitals on transfer:
98.9 temporal 135 afib, 46rr, 94% 15LPM non-rebreather, 95/62 
(after 1000mg PR APAP).  

Of note, patient was recently hospitalized ___ for NSTEMI 
and atrial fibrillation. She was started on heparin drip and 
then taken for a left cardiac catheterization which revealed 
complex 3 vessel disease (please see ___ cath report). CABG 
was recommended, but the patient was very resistant and 
preferred to wait. The cardiology team reviewed the upfront 
mortality risk of CABG vs risk of recurrent MI and heart 
failure. Ultimately it was determined that she should be 
monitored as an outpatient. TTE showed an LVEF 45% mild regional 

left ventricular systolic dysfunction with inferior and 
infero-lateral hypokinesis suggested as well as mild aortic 
valve stenosis (valve area 1.2-1.9cm2). The patient was started 
on Aspirin 81mg, metoprolol succinate 75mg BID, and Lisinopril 
2.5mg. She was started on lovenox as part of medical management 
of afib (5 day course, Last day ___, outreach call 
was made with INR 2.5 for which recommendation was made to 
discontinue enoxaparin and continue warfarin 2.5mg alternating 
with warfarin 5mg. Of note, she was discharged 93-95% on room 
air HR ___ 100s and home oxygen PRN.  Bactrim and prednisone for 
cryptogenic pneumonia recently diagnosed were held on discharge 
___ the setting of NSTEMI and improved oxygenation. 

She was also admitted to ___ (___) for dyspnea and 
malaise, and - this was the admission during which she was 
diagnosed with cryptogenic pneumonia based on lung biopsy. 
Patient was on prednisone 40mg daily only from ___ to ___ since 
it was discontinued on subsequent admission.
 
___ the ED, initial vitals:  
Today 21:17 0 99.4 140 78/56 25 72% Intubation 
 
Labs were notable for wbc 22.3 with h/h ___ (11.2/34.7) and 
INR 4.3. Initial ABG showed 7.___/50 on 50% FiO2 with mixed 
venous O2 97 and lactate 2.0. ABG prior to transfer showed 
___ on 100% FiO2.

U/a with neg leuk, neg nitrite, few bacteria, and 1 wbc. 

Vent settings were A/C with FiO2 100%, PEEP 5, TV 400, RR30 
showing abg 7.___.

Left CVL and NGT were placed ___ ED and patient was started on 
Levophed 0.25mcg/kg/min 

On transfer, vitals were:  
Today 21:57 0 127 93/66 on 0.25levophed 25 98% Intubation 
 
Past Medical History:
 1. CARDIAC RISK FACTORS: +hypertension,  
 2. CARDIAC HISTORY: 
  - Cardiac Catheterization ___, no stent or angioplasty 
   performed. 
 - CABG: None  
 - PERCUTANEOUS CORONARY INTERVENTIONS: None  
 - PACING/ICD: None  
 3. OTHER PAST MEDICAL HISTORY:  
 -Asthma  
 -PMR w/ ?giant cell arteritis  
 -hypothyroidism  
 -chronic bronchitis (no formal dx of COPD)  
 -Cryptogenic Organizing Pneumonia
 
Social History:
___
Family History:
CAD ___ brother and father. 
 
Physical Exam:
>> Admission Physical Exam: 
Vitals: T98.3 BP106/75 HR117 RR22 98% vent
Vent: FiO2 100% PEEP 5 TV350 RR20
GENERAL: intubated and sedated
HEENT: Sclera anicteric, dry MM with dried blood at OP 
NECK: supple
LUNGS: coarse breath sounds anteriorly  
CV: systolic murmur best heard at ___
ABD: obese, soft, non-tender, non-distended, no rebound 
tenderness or guarding, no organomegaly; hypoactive bowel sounds
EXT: right hand with mottling and midly cool; all other 
extremities warm and well perfused 
. 
>> Discharge Physical Exam: 
Expired. 
 
Pertinent Results:
>> Labs: 
___ 03:48AM BLOOD WBC-32.2* RBC-3.35* Hgb-9.8* Hct-30.7* 
MCV-92 MCH-29.3 MCHC-31.9* RDW-14.7 RDWSD-49.6* Plt ___
___ 11:38AM BLOOD WBC-33.8* RBC-3.58* Hgb-10.3* Hct-32.9* 
MCV-92 MCH-28.8 MCHC-31.3* RDW-15.0 RDWSD-50.3* Plt ___
___ 09:26PM BLOOD Neuts-89.2* Lymphs-3.3* Monos-5.2 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-19.90* AbsLymp-0.73* 
AbsMono-1.15* AbsEos-0.02* AbsBaso-0.06
___ 03:48AM BLOOD Neuts-97* Bands-0 ___ Monos-3* Eos-0 
Baso-0 ___ Myelos-0 AbsNeut-31.23* AbsLymp-0.00* 
AbsMono-0.97* AbsEos-0.00* AbsBaso-0.00*
___ 03:48AM BLOOD ___ PTT-29.4 ___
___ 09:26PM BLOOD ___ PTT-36.2 ___
___ 11:38AM BLOOD Calcium-7.0* Phos-5.4* Mg-1.9
___ 03:48AM BLOOD ALT-42* AST-62* LD(LDH)-659* AlkPhos-143* 
TotBili-0.3
___ 03:48AM BLOOD Calcium-7.2* Phos-4.2 Mg-1.9
___ 05:57AM BLOOD Vanco-5.5*
___ 06:08AM BLOOD Lactate-3.5*
___ 12:25PM BLOOD Lactate-2.0
___ 02:28PM BLOOD freeCa-1.00*
___ 01:13PM BLOOD ASPERGILLUS GALACTOMANNAN ANTIGEN-PND
.
>> Microbiology: 
__________________________________________________________
___ 3:51 am Rapid Respiratory Viral Screen & Culture
      Source: Nasopharyngeal swab. 

   Respiratory Viral Culture (Pending): 

   Respiratory Viral Antigen Screen (Pending): 
__________________________________________________________
___ 3:33 am Rapid Respiratory Viral Screen & Culture

   Respiratory Viral Culture (Pending): 

   Respiratory Viral Antigen Screen (Pending): 
__________________________________________________________
___ 3:33 am BRONCHOALVEOLAR LAVAGE

   CYTOMEGALOVIRUS EARLY ANTIGEN TEST (SHELL VIAL METHOD) 
(Pending): 

   VIRAL CULTURE: R/O CYTOMEGALOVIRUS (Pending): 
__________________________________________________________
___ 3:33 am BRONCHOALVEOLAR LAVAGE

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   RESPIRATORY CULTURE (Preliminary): 

   LEGIONELLA CULTURE (Preliminary): 

   Immunoflourescent test for Pneumocystis jirovecii (carinii) 
(Final
      ___:    NEGATIVE for Pneumocystis jirovecii 
(carinii). 

   FUNGAL CULTURE (Preliminary): 

   NOCARDIA CULTURE (Preliminary): 

   ACID FAST SMEAR (Preliminary): 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 
      This is only a PRELIMINARY result.  If ruling out 
tuberculosis, you
      must wait for confirmation by concentrated smear. 

   ACID FAST CULTURE (Preliminary): 
__________________________________________________________
___ 12:52 am URINE      Source: Catheter. 

   URINE CULTURE (Pending): 
__________________________________________________________
___ 11:40 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
Time Taken Not Noted     ___ Date/Time: ___ 10:55 pm
      BLOOD CULTURE      2 OF 2. 

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 9:58 pm BLOOD CULTURE      1 OF 2. 

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 12:17 pm BRONCHOALVEOLAR LAVAGE      RLL BAL. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ CLUSTERS. 

   RESPIRATORY CULTURE (Final ___: 
      10,000-100,000 ORGANISMS/ML. Commensal Respiratory Flora. 

   LEGIONELLA CULTURE (Final ___:    NO LEGIONELLA 
ISOLATED. 

   FUNGAL CULTURE (Final ___:    NO FUNGUS ISOLATED. 

   NOCARDIA CULTURE (Preliminary):    NO NOCARDIA ISOLATED. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Preliminary):    NO MYCOBACTERIA ISOLATED. 

__________________________________________________________
___ 12:15 pm TISSUE      Source: Lung, right lower lobe. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   TISSUE (Final ___: 
      Reported to and read back by ___ ___ ___ 3PM. 
      VIRIDANS STREPTOCOCCI.    RARE GROWTH. 
      MICROCOCCUS/STOMATOCOCCUS SPECIES.    RARE GROWTH. 
         PRESUMPTIVE IDENTIFICATION. 

   LEGIONELLA CULTURE (Final ___:    NO LEGIONELLA 
ISOLATED. 

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 

   ACID FAST CULTURE (Preliminary):    NO MYCOBACTERIA ISOLATED. 

.
>> Pertinent Reports: 
___ Imaging CHEST (PORTABLE AP)  :
Lines and tubes as described. 
  
Extensive diffuse bilateral patchy opacities, overall similar to 
the prior 
study, would possible slight clearing at the right lung base. 

___ Imaging DX CHEST PORT LINE/TUBE 
1.  Diffuse pulmonary parenchymal opacities, which appear 
slightly more 
pronounced ___ the upper lobes as compared to the most recent 
prior study. 
2.  Probable bilateral pleural effusions. 
3.  Left internal jugular central venous line ends ___ the mid 
SVC. 
4.  Endotracheal tube ends 2.3 cm from the carina. 

 
Brief Hospital Course:
Ms. ___ is a ___ year old female, with past history of 
bilateral COP, PMR, Atrial Fibrillation, NSTEMI last week with 
severe 3-vessel disease, systolic CHF (EF45%), who is 
transferred for respiratory failure and septic shock. 
. 
>> ACTIVE ISSUES: 
# Septic Shock: Patient has now had complicated hospital course 
including stays for respiratory failure found on pathology to be 
consistent with organizing pneumonia. Patient initially 
presented with concerns for septic shock including chest imaging 
concerning for a severe ARDS, and likely now off steroids which 
may be contributing to an ILD type flare. Patient was initially 
started on broad spectrum antibiotics, and was given IVF. 
Patient was also though to be at high risk for pulmonary 
hemorrhage ___ the setting of coagulopathy, and concern for 
potential cardiogenic component given severe 3-vessel disease. 
Patient continued to have worsening ___ end organ perfusion, and 
given grave prognosis, family meeting held. At that point, 
patient's was becoming increasingly oliguric, and dyssynchronus 
on ventilator requiring increased sedation, and was also 
becoming increasingly acidotic likely ___ the setting of poor 
ventilation. Goals of care discussion held with pulmonary fellow 
and family, and given grave prognosis and recurrent 
hospitalizations, family had elected to transition her to 
comfort focused care. Patient was terminally extubated on ___ 
afternoon, and ultimately expired ___ the evening. 
. 
# Respiratory Failure: Severe ARDS ___ the setting of COP as 
above, patient continued to require increasing ventilator 
settings likely ___ the setting as above, and continued to be 
dysynchronus on the ventilator. Patient as treated as above. 
. 
# Atrial Fibrillation with RVR: Patient found to be ___ rapid 
atrial flutter. Patient was treated with reversal given concern 
for pulmonary hemmhorage. and was given IV 10 vitamin K total. 
Further issues as above. 
. 
# Anemia: Patient's crits were trended. 
.
# Hypertension: patient was found to be ___ florid shock, and 
anti-HTN were held. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone Propionate 110mcg 1 PUFF IH BID 
2. Levothyroxine Sodium 50 mcg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Atorvastatin 80 mg PO QPM 
5. Omeprazole 20 mg PO DAILY 
6. Albuterol Inhaler ___ PUFF IH Q4H:PRN sob / wheeze 
7. Vitamin D ___ UNIT PO DAILY 
8. Metoprolol Succinate XL 75 mg PO BID 
9. Warfarin 2.5 mg PO DAILY16 
10. Lisinopril 2.5 mg PO DAILY 
11. PredniSONE 20 mg PO DAILY 
12. Sulfameth/Trimethoprim DS 1 TAB PO 3X/WEEK (___) 

 
Discharge Medications:
Expired
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Expired
 
Discharge Condition:
Expired
 
Discharge Instructions:
Expired
 
Followup Instructions:
___